* X:\phone_rtty_interface\ltspice\Draft1.asc
R1 vcc N001 10K
R2 N001 0 1K
V1 vcc 0 SINE(0 1 1000)
C1 N001 0 0.1µ V=16 Irms=728m Rser=0.14361 Lser=0 mfg="KEMET" pn="C0603C104K4RAC" type="X7R"
L1 N001 0 10m
L2 0 out 50m
.tran 5ms
k L1 L2 1
.backanno
.end
